US09226922B2
Ethyl 6-chloro-3-(2-methoxyethoxy)-1H-pyrazolo[4,3-c]pyridine-1-carboxylate (100 mg, 0.334 mmol), (R)-1-(1-phenylethyl)urea (68.5 mg, 0.417 mmol), bippyphos (15.21 mg, 0.030 mmol), Pd2(dba)3 (7.4 mg, 8.08 μmol), and tripotassium phosphate (106 mg, 0.500 mmol) were taken up in DME (1.6 mL) in a 5 mL microwave vial. The vial was evacuated and back-filled with N2 (×3) and the reaction stirred at 85° C. for 16 h. Room temperature was attained, the reaction mixture filtered through Celite, eluting with MeOH, and the filtrate was concentrated in vacuo. The residue was taken up in MeOH (3 mL) and K2CO3 (118 mg, 0.854 mmol) was added. The resulting mixture was stirred at room temperature for 3 h. The mixture was filtered through Celite and the filtrate concentrated in vacuo. The crude reaction mixture was purified by flash chromatography (0-10% MeOH-DCM) followed by purification by mass triggered, reverse phase prep-HPLC. The fractions containing pure product were concentrated in vacuo, lyophilized, and dissolved in MeOH. The solution was filtered through a PS—HCO3 cartridge, eluting with MeOH. The filtrate was concentrated in vacuo to give (R)-1-(3-(2-methoxyethoxy)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea. MS ESI calc'd. For C18H21N5O3 [M+1]+ 356. found 356. 1H NMR (500 MHz, DMSO-d6) δ 11.98 (s, 1H), 8.92 (s, 1H), 8.55 (s, 1H), 7.75 (br s, 1H), 7.48 (s, 1H), 7.34-7.31 (m, 4H), 7.25-7.20 (m, 1H), 4.88-4.82 (m, 1H), 4.81-4.39 (m, 2H), 3.71-3.69 (m, 2H), 3.30 (s, 3H), 1.39 (d, J=7.0 Hz, 3H).

reactant | Ethyl 6-chloro-3-(2-methoxyethoxy)-1H-pyrazolo[4,3-c]pyridine-1-carboxylate | 0.334 mmol, 100 mg | ClC1=CC2=C(C=N1)C(=NN2C(=O)OCC)OCCOC | C12H14ClN3O4
reactant | (R)-1-(1-phenylethyl)urea | 0.417 mmol, 68.5 mg | C1(=CC=CC=C1)[C@@H](C)NC(=O)N | C9H12N2O
reactant | bippyphos | 0.030 mmol, 15.21 mg | CC(C)(C)P(C1=CC=NN1C2=C(N(N=C2C3=CC=CC=C3)C4=CC=CC=C4)C5=CC=CC=C5)C(C)(C)C | C32H35N4P
reactant | tripotassium phosphate | 0.500 mmol, 106 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | K2CO3 | 0.854 mmol, 118 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 1.6 mL | COCCOC | C4H10O2
catalyst | Pd2(dba)3 | 8.08 μmol, 7.4 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (R)-1-(3-(2-methoxyethoxy)-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(1-phenylethyl)urea | COCCOC1=NNC2=C1C=NC(=C2)NC(=O)N[C@H](C)C2=CC=CC=C2 | C18H21N5O3
